US04281017
3-Oxo-5-indaneacetic acid
Polyphosphoric acid (1 kg) was stirred and heated to 95°-100° C. and 4-(2-Carboxyethyl)phenylacetic acid (100 g, 0.48 mol) added over 10 minutes. The mixture was stirred for 0.5 hours and poured into ice and H2O; the product was continuously extracted with CHCl3, and recrystallised from benzene to give the title product, m.p. 133°-5° C.

reactant | 4-(2-Carboxyethyl)phenylacetic acid | 0.48 mol, 100 g | C(=O)(O)CCC1=CC=C(C=C1)CC(=O)O | C11H12O4
solvent | H2O | O | H2O
product | 3-Oxo-5-indaneacetic acid | O=C1CCC2=CC=C(C=C12)CC(=O)O | C11H10O3
